US05405853
a) 1-Ethoxycarbonylmethyl-3-ethoxycarbonylpiperidine
Ethyl bromoacetate (21.2 g, 0.127 mol) was added dropwise to a solution of 3-methoxycarbonylpiperidine (40 g, 0.254 mol) in diethyl ether (250 ml) at 0° C. The reaction was heated under reflux for 1 hour and the resulting precipitate filtered off and washed with diethyl ether. The ethereal solution was concentrated under reduced pressure to give the title compound (27.6 g); δ (60 MHz, CDCl3) 1.25 and 1.27 (each 3H, each t, J=7 Hz, 2×OCH2CH3). 1.40-3.70 (9H, m, 2CH2, 3CH, 4CH2, 5CH2 and 6CH2), 3.20 (2H, s, NCH2CO2), 4.10 and 4.15 (each 2H, each q, J=7 Hz, 2×NCH2CO2).

reactant | Ethyl bromoacetate | 0.127 mol, 21.2 g | BrCC(=O)OCC | C4H7BrO2
reactant | 3-methoxycarbonylpiperidine | 0.254 mol, 40 g | COC(=O)C1CNCCC1 | C7H13NO2
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | 1-Ethoxycarbonylmethyl-3-ethoxycarbonylpiperidine | 27.6 g | C(C)OC(=O)CN1CC(CCC1)C(=O)OCC | C12H21NO4
